US05576327
A solution of 7.2 g of 4-fluorobenzenesulfonyl chloride in 10 ml of dichloromethane was added dropwise with ice-cooling to a solution of 7.8 g of 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane in 40 ml of dichloromethane. The ice-cooling was then removed, and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was worked up by adding aqueous sodium bicarbonate solution and extracting twice with dichloromethane. The combined dichloromethane extracts were dried with magnesium sulfate and concentrated. 12.9 g of 7-(n-butyl)-3-[(4-fluorophenyl)sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane were obtained.

reactant | 4-fluorobenzenesulfonyl chloride | 7.2 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane | 7.8 g | C(CCC)N1CC2CNCC(C1)C2(C)C | C13H26N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-(n-butyl)-3-[(4-fluorophenyl)sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3.3.1]nonane | 12.9 g | C(CCC)N1CC2CN(CC(C1)C2(C)C)S(=O)(=O)C2=CC=C(C=C2)F | C19H29FN2O2S
